US05731315
F. 4-(3-(S)-Amino-2-oxo-pyrrolidin-1-ylmethyl)-thiophene-2-carbonitrile hydrochloride
[1-(5-Cyanothiophene3-ylmethyl)-2-oxo-pyrrolidin-3-(S)-yl]-carbamic acid tert-butyl ester (4.0 g, 13.8 mmol) is added to a solution of 100 mL of EtOAc saturated with HCl gas at 0° C. After 3 h, the solution is concentrated. The title compound (3.3 g, 13.5 mmol) is obtained as a white solid.

reactant | [1-(5-Cyanothiophene3-ylmethyl)-2-oxo-pyrrolidin-3-(S)-yl]-carbamic acid tert-butyl ester | 13.8 mmol, 4.0 g | C(C)(C)(C)OC(N[C@@H]1C(N(CC1)CC1=CSC(=C1)C#N)=O)=O | C15H19N3O3S
reactant | HCl | Cl | ClH
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 4-(3-(S)-Amino-2-oxo-pyrrolidin-1-ylmethyl)-thiophene-2-carbonitrile hydrochloride | 13.5 mmol, 3.3 g | Cl.N[C@@H]1C(N(CC1)CC=1C=C(SC1)C#N)=O | InChI=1S/C10H11N3OS.ClH/c11-4-8-3-7(6-15-8)5-13-2-1-9(12)10(13)14;/h3,6,9H,1-2,5,12H2;1H/t9-;/m0./s1
